US09303033B2
Potassium carbonate (86 mg, 0.63 mmol) was added to tert-butyl cyclopropyl(3-formyl-6-((trimethylsilyl)ethynyl)imidazo[1,2-a]pyrazin-8-yl)carbamate (50 mg, 0.13 mmol) dissolved in methanol (2.5 mL). After 2 h, the volatiles were removed in vacuo. The residue was partitioned between dichloromethane (10 mL) and water (10 mL). The aqueous layer was further extracted with dichloromethane (2×10 mL). The organics were washed with brine (30 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was purified via flash column chromatography (30% EtOAc/hexanes) to provide tert-butyl cyclopropyl(6-ethynyl-3-formylimidazo[1,2-a]pyrazin-8-yl)carbamate (20 mg, 50%) as a yellow foamy solid. LCMS (ES): >95% pure, m/z 327 [M+1]+.

reactant | Potassium carbonate | 0.63 mmol, 86 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl cyclopropyl(3-formyl-6-((trimethylsilyl)ethynyl)imidazo[1,2-a]pyrazin-8-yl)carbamate | 0.13 mmol, 50 mg | C1(CC1)N(C(OC(C)(C)C)=O)C=1C=2N(C=C(N1)C#C[Si](C)(C)C)C(=CN2)C=O | C20H26N4O3Si
solvent | methanol | 2.5 mL | CO | CH4O
product | tert-butyl cyclopropyl(6-ethynyl-3-formylimidazo[1,2-a]pyrazin-8-yl)carbamate | 20 mg, 50% | C1(CC1)N(C(OC(C)(C)C)=O)C=1C=2N(C=C(N1)C#C)C(=CN2)C=O | C17H18N4O3
